US04874861
To a solution of 0.63 g (0.005 mol) of p-fluorobenzyl alcohol dissolved in 20 ml of N,N-dimethylformamide was added 0.24 g of 55% sodium hydride at room temperature under stirring. After addition, the resulting mixture was further stirred at room temperature for fifteen minutes. The reaction liquid was added dropwise with 1.0 g of 2-t-butyl-5-chloro-4-methyl-3(2H)-pyridazinone, and was stirred at room temperature for eight hours. The reaction mixture was poured into 200 ml of water and then extracted with 50 ml of benzene. The resulting benzene layer was washed successively with 50 ml of 10% sodium hydroxide, 50 ml of 1N-hydrochloric acid, and 100 ml of water, dried over anhydrous sodium sulfate, and freed of solvent by distillation to give 1.5 g of crude product. The crude product was recrystallized from 20 ml of hexane to obtain 0.9 g of 2-t-butyl-5-(p-fluorobenzyloxy)-4-methyl-3(2H)-pyridazinone.

reactant | p-fluorobenzyl alcohol | 0.005 mol, 0.63 g | FC1=CC=C(CO)C=C1 | C7H7FO
reactant | sodium hydride | 0.24 g | [H-].[Na+]
reactant | 2-t-butyl-5-chloro-4-methyl-3(2H)-pyridazinone | 1.0 g | C(C)(C)(C)N1N=CC(=C(C1=O)C)Cl | C9H13ClN2O
reactant | water | 200 ml | O | H2O
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 2-t-butyl-5-(p-fluorobenzyloxy)-4-methyl-3(2H)-pyridazinone | 0.9 g | C(C)(C)(C)N1N=CC(=C(C1=O)C)OCC1=CC=C(C=C1)F | C16H19FN2O2
